US08669266B2
(vi) 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-carboxymethoxy-7-methyl-naphthalene-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester
To a solution of 710 mg 4-{(S)-2-[(4-Benzyloxycarbonylmethoxy-7-methyl-naphthalene-2-carbonyl)-amino]-4-tert-butoxycarbonyl-butyryl}-piperazine-1-carboxylic acid butyl ester in 15 ml ethyl acetate were added 200 mg Pd/C (10%) and the suspension stirred under an atmosphere of hydrogen (3 bar) for 1 h. Then the reaction mixture was filtrated over a plug of Celite®, washed with ethyl acetate and concentrated. Yield: 670 mg colorless oil.

reactant | 4-{(S)-2-[(4-Benzyloxycarbonylmethoxy-7-methyl-naphthalene-2-carbonyl)-amino]-4-tert-butoxycarbonyl-butyryl}-piperazine-1-carboxylic acid butyl ester | 710 mg | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=CC2=CC(=CC=C2C(=C1)OCC(=O)OCC1=CC=CC=C1)C)=O | C39H49N3O9
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-carboxymethoxy-7-methyl-naphthalene-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=CC2=CC(=CC=C2C(=C1)OCC(=O)O)C)=O | C32H43N3O9
